US04191699
4-Trimethylsilylethynyl-1-octyn-4-ol trimethylsilyl ether
To a stirred mixture of 8.5 g of 4-trimethylsilylethynyl-1-octyn-4-ol and 6.2 g of imidazole in 24 ml of dry dimethylformamide is added, under nitrogen, 5.7 ml of chlorotrimethylsilane, in a slow stream, via a syringe. The mixture is stirred in an ice bath for one hour and then at room temperature overnight. The mixture is poured into hexane, washed with saturated sodium bicarbonate solution, water and then brine and dried over sodium sulfate. The solvents are evaporated to dryness giving 11.1 g of the desired product.

reactant | 4-trimethylsilylethynyl-1-octyn-4-ol | 8.5 g | C[Si](C)(C)C#CC(CC#C)(CCCC)O | C13H22OSi
reactant | imidazole | 6.2 g | N1C=NC=C1 | C3H4N2
reactant | chlorotrimethylsilane | 5.7 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
product | 4-Trimethylsilylethynyl-1-octyn-4-ol trimethylsilyl ether | 11.1 g | C[Si](C)(C)OC(CC#C)(CCCC)C#C[Si](C)(C)C | C16H30OSi2
